***************** Power Discrete MOSFET Electrical Parameters ***********************
** Product: FQP9N50C
** Package: TO-220
**-----------------------------------------------------------------------------------
.SUBCKT FQP9N50C 20 10 30
Rg  10 1 1.58
M1  2 1 3 3 DMOS L=1u W=1u
.MODEL DMOS NMOS (VTO={3.52*{-0.00086*TEMP+1.0215}} KP={TEMP*0.00056+6.5}
+ THETA=0.0424  VMAX=1.0E5  LEVEL=3) 
Cgs 1 3 766p
Rd  20 4 0.317  TC=0.012
Dds 3 4 DDS
.MODEL DDS D(BV={500*{0.001025*TEMP+0.974375}} M=0.5 CJO=1460p VJ=0.5)
Dbody 3 20   DBODY
.MODEL DBODY  D(IS=1.8E-12  N=1.0  RS=0.00084  EG=1.08  TT=510n)
Ra  4 2  0.317 TC=0.012
Rs  3 5  0.013
Ls  5 30 2.3n
M2  1 8 6 6 INTER
E2  8 6 4 1 2
.MODEL INTER NMOS(VTO=0  KP=10  LEVEL=1)
Cgdmax 7 4 2040p
Rcgd 7 4 10meg
Dgd  6 4 DGD
Rdgd 4 6 10meg
.MODEL DGD D(M=0.46  CJO=2040p  VJ=0.0082)
M3  7  9 1 1 INTER
E3  9  1 4 1 -2
.ENDS
**-----------------------------------------------------------------------------------
**** Power Discrete Thermal Model ****
** 500V N-Channel MOSFET and TO-220
**-----------------------------------------------------------------------------------
.SUBCKT FQP9N50C_THERMAL TH TL
CTHERM1 TH 6 1.2e-4
CTHERM2 6 5  3.2e-3
CTHERM3 5 4  1.5e-2
CTHERM4 4 3  5.2e-2
CTHERM5 3 2  2.4e-1
CTHERM6 2 TL 7.2e-1 

RTHERM1 TH 6 5.00e-3
RTHERM2 6 5  1.20e-2
RTHERM3 5 4  1.53e-1
RTHERM4 4 3  2.30e-1
RTHERM5 3 2  2.40e-1
RTHERM6 2 TL 2.90e-1
.ENDS
**-----------------------------------------------------------------------------------
** Creation: Jul.-27-2007
** Fairchild Semiconductor

